Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypothermia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: ___ yo man with h/o alcoholism, 
glaucoma (legally blind) was out drinking last night and found 
down in the snow since 3:30am and found to be hypothermic to 
___ at 7:30am. Apparently he was out walking in the snow 
intoxicated last night trying to find his friend who owed him 
money. He then dropped his cane and his pants started to fall 
down and in the effort to pull up his pants fell in the snow and 
was down for likely approximately 4 hours. He thinks he landed 
on his hip but does not remember which one. He tried to yell for 
help without success. He thinks he lost consciousness for 
periods at a time. He then recalls waking up again and yelling 
for help after which someone shoveling snow luckily found him 
and called EMS. EMS found his temp on the field to be ___. They 
warmed him with blankets and brought him to the ED.  
  
In the ED, initial vs were: 96.8 95 134/84 20 100% NRB. He only 
made 250cc of urine throughout his Tmin was 33.5C. He warmed 
nicely with a warming blanket. His labs were notable for an 
anion gap of 20, bicarb of 12, lactate of 5.5 after 3LNS, Cr of 
1.9, CK of 549. The patient was given 5L of NS, and 1 L of ___ after BS of 50. His last set of vitals prior to transfer 
were 36.3 (___) 102/59 14 98%2LNC.  
 
On the floor, the patient denied any symptoms and wanted to eat 
a meal.  
  
Review of systems:  
(+) Per HPI, does report new mild sore throat and cough with 
sputum.  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies orthopnea, weight changes. Denies nausea, vomiting, 
diarrhea, constipation, abdominal pain, or changes in bowel 
habits. Denies dysuria, frequency, or urgency. Denies 
arthralgias or myalgias. Denies rashes or skin changes.  

 
Past Medical History:
1) Glaucoma - legally blind  
2) Alcoholism  
3) Lost to medical care for ___ years  

 
Social History:
___
Family History:
Brother died of alcoholic cirrhosis. Two sisters died of breast 
cancer at unknown age. 
 
Physical Exam:
On Admission to the MICU:
Vitals: T: 99.6 BP: P: R: 18 O2:  
General: Alert, oriented, thin elderly man in no acute distress  

HEENT: Sclera anicteric, MMM, oropharynx clear, surgical pupils  

Neck: supple, JVP midway up neck at 45 degrees, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi, diffusely reduced breath sounds  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley with clear yellow urine  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN ___ intact, ___ UE flexion/extension bilaterally, ___ 
RLE flexion/extension of hips/calves ___ pain per patient all 
___ on LLE. Light touch intact throughout. Patellar reflexes 1+ 
bilaterally. Downgoing toes bilaterally. Pt answering questions 
normally.  

 
Pertinent Results:
Admission Labs:
___ 07:50AM BLOOD WBC-12.4* RBC-4.13* Hgb-14.1 Hct-41.5 
MCV-101* MCH-34.1* MCHC-34.0 RDW-14.6 Plt ___
___ 07:50AM BLOOD Neuts-75* Bands-8* Lymphs-11* Monos-6 
Eos-0 Baso-0 ___ Myelos-0
___ 07:50AM BLOOD ___ PTT-30.7 ___
___ 07:50AM BLOOD Glucose-79 UreaN-20 Creat-1.9* Na-137 
K-3.9 Cl-102 HCO3-12* AnGap-27*
___ 07:50AM BLOOD ALT-47* AST-85* CK(CPK)-549* AlkPhos-95 
TotBili-0.5
___ 07:50AM BLOOD Calcium-10.2 Phos-7.6* Mg-2.5
___ 02:14PM BLOOD calTIBC-300 VitB12-205* Folate-8.5 
___ Ferritn-213 TRF-231

Tox:
___ 07:50AM BLOOD Acetone-NEGATIVE
___ 09:30AM BLOOD Osmolal-314*
___ 07:50AM BLOOD ASA-4.1 ___ Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

ABG:
___ 02:39PM BLOOD ___ pO2-64* pCO2-28* pH-7.33* 
calTCO2-15* Base XS--9 Comment-ROOM AIR

Lactate:
___ 09:36AM BLOOD Lactate-5.5*
___ 02:39PM BLOOD Lactate-1.4

Surveillance labs:
___ 06:00AM BLOOD WBC-4.8 RBC-3.44* Hgb-11.2* Hct-32.7* 
MCV-95 MCH-32.6* MCHC-34.3 RDW-15.1 Plt Ct-83*
___ 06:00AM BLOOD Glucose-95 UreaN-9 Creat-0.7 Na-139 
K-3.0* Cl-110* HCO3-22 AnGap-10
___:00AM BLOOD ALT-32 AST-58*
___ 06:00AM BLOOD Calcium-8.6 Phos-2.6* Mg-1.6

Studies:
ECG Study Date of ___  8:01:06 AM 
Sinus rhythm with borderline sinus tachycardia. Prominent T 
waves are 
non-specific and may be within normal limits but clinical 
correlation is 
suggested. No previous tracing available for comparison.  
TRACING #1 
 
BILAT HIPS (AP,LAT & AP PELVIS) Study Date of ___ 8:46 AM 
IMPRESSION: No evidence of fracture or dislocation. Radiopaque 
amorphous 
bodies measuring up to 1.1 cm overlie the lateral aspect of the 
femoral neck and proximal shaft. 
  
Radiopaque amorphous bodies measuring up to 1.1 cm overlie the 
soft tissue 
lateral to the left femoral neck and proximal femoral shaft, 
difficult to 
discern whether external to the patient or foreign bodies. 
Clinical 
correlation advised. 

CHEST (PORTABLE AP) Study Date of ___ 4:06 ___ 
IMPRESSION: Opacities at the left and right base. These could be 
further 
characterized by a PA and lateral radiograph as they could 
represent early 
pneumonia or aspiration. 

Micro biology:
___ 2:02 am URINE      Source: ___. 

URINE CULTURE (Preliminary): 
PROTEUS MIRABILIS.    10,000-100,000 ORGANISMS/ML.. 
PRESUMPTIVE IDENTIFICATION. 

 
Brief Hospital Course:
# Hypothermia: The most likely etiology is exposure to the 
elements in a blizzard for four hours. Patient remained 
euthermic after rewarming and has no signs or sx of frostbite 
damage to his extremities. His glucose and electrolytes have 
remained stable. His EKG and telemetry reveal no arrythmias. No 
e/o coaggulopathy with normal INR and normal fibrinogen.
 
# Anion gap metabolic acidosis: Patient initially presented with 
an anion gap acidosis without a concominant nongap acidosis most 
likely from a combination of lactic acidosis and alcoholic 
ketoacidosis that has come down after feeding and rehydration. 
His lactate was likely elevated secondary to hypothermia and 
peripheral vasoconstriction and has now resolved to 1.4 after 
rewarming and rehydration. He has subsequently developed a 
concominant hyperchloremic nongap acidosis after 5L of NS. His 
VBG confirmed this metabolic acidosis of 7.33 (which is 
reassuring level) with appropriate respiratory compensation. 
 
# Oliguric acute kidney injury: Most likely secondary to 
rhabdomyelysis and possibly dehydration. Improved markedly after 
fluid rescucitation. Currently making adequate urine. 

# Rhabdomyelysis: Likely from being down overnight and possibly 
from shivering/hypothermia. His CK trended downward and his 
creatinine improved to 0.7. His UA showed blood without RBCs, 
making myoglobinuria likely.
 
# Megaloblastic anemia: Most likely secondary to chronic 
alcoholism. His MCV improved with nutritional supplementation. 
His B12 was low, so we started B12 supplementation.
 
# Fall: Most likely a combinaion of deconditioning, blindness 
leading to poor co-ordination, alcoholic neuropathy and 
low-level neurological irritability from etoh withdrawl. 
Physical therapy evaluated him and recommended a SNF for rehab.

# Thrombocytopenia: Likely from myelosuppression from alcohol 
abuse. Other possibilities include chronic liver dysfunction 
such as cirrhosis. He has a palpable liver tip, but does not 
have splenomegaly. Would benefit from abstinence of alcohol.
 
# Alcoholism: Patient arrived intoxicated with elevated alcohol 
levels and alcohol on his breath. He was monitored with a CIWA 
scale, but did not score, and he was started on supplementation 
with thiamine, folate, multivitamin, and vitamin B12.

# Transfer of care: He was transferred to rehab for strength and 
stability training. He will need PCP ___ upon discharge 
from his rehab facility.
 
Medications on Admission:
None
 
Discharge Medications:
1. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. cyanocobalamin (vitamin B-12) 100 mcg Tablet Sig: 0.5 Tablet 
PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hypothermia
Lactic acidosis
Alcohol ketoacidosis
Myoglobinuria
Acute renal failure
Megaloblastic anemia
Thrombocytopenia
Alcohol abuse
Secondary:
Glaucoma, legally blind

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___, 

It was a pleasure taking part in your care. You were admitted 
after being found in the snow and your temperature was low. You 
were taken warmed up and monitored in the ICU overnight. 

During your stay, you had multiple lab abnormalities that were 
likely because of your alcohol intake as well as falling and 
being out in the cold for multiple hours.

You were given IV fluids to help your kidney function, and 
antibiotics for a urinary tract infection. We started you on a 
lot of nutrition supplements (vitamins) to help supplement your 
diet. 

Physical therapy worked with you, and because you were unsteady 
they recommended a short stay at a rehab facility to help get 
you strong enough to go home.

We made the following changes to your medications:
-START thiamine 100mg daily
-START folic acid 1mg daily
-START multivitamin 1 tab daily
-START Vitamin B12 50mcg daily
-START Ciprofloxacin 500mg twice a day for 7 days (until 
___

Please choose a primary care physician to follow you as an 
outpatient
 
Followup Instructions:
___